US05344845
Under an argon stream, 16 ml of n-butyl lithium (hexane 1.6M solution) was added to a solution of 5 ml bis(trimethylsilyl)amine in 10 ml of THF cooled to -78° C. The resultant solution was stirred for 10 minutes. Then, a solution of 3.4 g of methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate and 8 g of N-phenyl-trifluoromethanesulfonimide in 10 ml of THF was added to the solution, and the temperature was raised to -30° C. The solution was reacted for 1.5 hours. After reaction, the solvent was removed in vacuo. To the residue, 100 ml of aqueous ammonium chloride solution was added. The solution was extracted three times with 50 ml of ethyl acetate. The organic layer obtained was washed twice with 2N hydrochloric acid and twice with an aqueous sodium chloride solution, and was dried over magnesium sulfate. Thereafter, the solvent was removed in vacuo. The oily substance obtained was subjected to column chromatography using 55 g of silica gel. From the fraction eluted with hexane and ethyl acetate=100:1, the solvent was removed in vacuo, yielding 6 g of methyl 1-methyl-4-(trifluoromethanesulfonyloxy)-3-cyclohexene-1-carboxylate as a pale yellow oil, which had the following physiochemical properties:

reactant | n-butyl lithium | 1.6M, 16 ml | C(CCC)[Li]
reactant | bis(trimethylsilyl)amine | 5 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate | 3.4 g | CC1(CCC(CC1)=O)C(=O)OC | C9H14O3
reactant | N-phenyl-trifluoromethanesulfonimide | 8 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 1-methyl-4-(trifluoromethanesulfonyloxy)-3-cyclohexene-1-carboxylate | 6 g | CC1(CC=C(CC1)OS(=O)(=O)C(F)(F)F)C(=O)OC | C10H13F3O5S
